US06127361
To a solution of 4.50 g (20.2 mmol) of (2R,4R)-(+)-2-(hydroxymethyl)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidine and 2.40 ml of triethylamine (23.8 mmol) in dichloromethane (35 ml) was added 2.62 ml (22.9 mmol) of methanesulfonylchloride and the mixture was stirred at room temperature for 4.5 hours. The mixture was diluted with dichloromethane and the solution was washed with saturated aqueous sodium carbonate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silicagel column chromatography (ethyl acetate:n-hexane=1:2) to give 4.82 g (87.2%) of (3S,5R)-(+)-3-chloro-5-(methoxymethoxy)-1-(4-methoxyphenethyl)piperidine as colorless oil.

reactant | (2R,4R)-(+)-2-(hydroxymethyl)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidine | 20.2 mmol, 4.50 g | OC[C@@H]1N(C[C@@H](C1)OCOC)CCC1=CC=C(C=C1)OC | C16H25NO4
reactant | triethylamine | 23.8 mmol, 2.40 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 22.9 mmol, 2.62 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | (3S,5R)-(+)-3-chloro-5-(methoxymethoxy)-1-(4-methoxyphenethyl)piperidine | 4.82 g, 87.2% | Cl[C@@H]1CN(C[C@@H](C1)OCOC)CCC1=CC=C(C=C1)OC | C16H24ClNO3
